US07547783B2
Preparation of 2,6-bis[1-(4-eicosanoxy-3,5-diphenylphenylimino)ethyl]pyridine, (J)
Diacetylpyridine (1.43 g, 8.77 mmol and 4-eicosanoxy-3,5-diphenylaniline (9.5 g, 17.53 mmol) were dissolved in 400 ml of toluene. To this solution, 4 Å molecular sieves were added. After standing for 1 week, further 4 Å molecular sieves were added and the mixture was filtered. Most of the solvent was removed in vacuo. On standing a red precipitate was formed. The product, J, was isolated (5.52 g, 51%).

reactant | Diacetylpyridine | C(C)(=O)C=1C(=NC=CC1)C(C)=O | C9H9NO2
reactant | 4-eicosanoxy-3,5-diphenylaniline | 17.53 mmol, 9.5 g | C(CCCCCCCCCCCCCCCCCCC)OC1=C(C=C(N)C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C38H55NO
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis[1-(4-eicosanoxy-3,5-diphenylphenylimino)ethyl]pyridine | C(CCCCCCCCCCCCCCCCCCC)OC1=C(C=C(C=C1C1=CC=CC=C1)N=C(C)C1=NC(=CC=C1)C(C)=NC1=CC(=C(C(=C1)C1=CC=CC=C1)OCCCCCCCCCCCCCCCCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 | C85H115N3O2
